US04406902
Step A. Benzylformimidate hydrochloride
The product was assayed by NMR δ (DMSO) 5.7 (s, 2H, φCH2), 7.5 (s, 5H, φ), 9.0 (s, 1H HC=N). The product is thermally unstable. It decomposes to formamide and benzyl chloride at 0° C. and above. However, no appreciable decomposition was detected on storage at -20° C. for 2 months.

reactant | formamide | C(=O)N | CH3NO
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | Benzylformimidate hydrochloride | Cl.C(C1=CC=CC=C1)C(O)=N | InChI=1S/C8H9NO.ClH/c9-8(10)6-7-4-2-1-3-5-7;/h1-5H,6H2,(H2,9,10);1H
